US05063247
To 10.6 ml (5.3 mmol) of a toluene solution of 0.50M 2,6-dichlorophenyl isocyanate was added 1.21 ml (5.32 mmol) of 4-octylaniline at room temperature and the whole was stirred for 16 hours. After removal of the solvent under reduced pressure, the residue was recrystallized from methanol to give 1.42 g (68% yield) of 1-(4-octylphenyl)-3-(2,6-dichlorophenyl)urea, the physical properties of which being shown in the following Table 3. The compounds No. 1, No. 13, No. 14, No. 17, and No. 18 listed in Table 3 were similarly prepared as above.

reactant | toluene | 5.3 mmol, 10.6 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2,6-dichlorophenyl isocyanate | 0.50M | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | 4-octylaniline | 5.32 mmol, 1.21 ml | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
product | 1-(4-octylphenyl)-3-(2,6-dichlorophenyl)urea | 1.42 g, 68% yield | C(CCCCCCC)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1Cl)Cl | C21H26Cl2N2O
